US04861769
To a solution of 7β-[2-(cyclopropyloxyimino)-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.1 g) in formic acid (11 ml) was added concentrated hydrochloric acid (0.29 ml) under ice-cooling. The mixture was stirred for 3.5 hours at the same temperature. The mixture was concentrated in vacuo and poured into a mixture of ethyl acetate and water. After the mixture was adjusted to pH 7.2 with saturated aqueous solution of sodium bicarbonate, the aqueous layer was separated, adjusted to pH 3 with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated in vacuo, and triturated with diethyl ether to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (459 mg) as a solid.

reactant | 7β-[2-(cyclopropyloxyimino)-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.1 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C1=NSC(=N1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H30N8O5S4
reactant | hydrochloric acid | 0.29 ml | Cl | ClH
solvent | formic acid | 11 ml | C(=O)O | CH2O2
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 459 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC1CC1 | C17H16N8O5S4
